US09062028B2
Step B. 1-(5-(1-(3-Aminobenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one
The title compound was prepared using a procedure analogous to 1-(5-(1-(3-(aminomethyl)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one except that tert-butyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzylcarbamate was replaced by 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one and 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one was replaced by tert-butyl 3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)phenylcarbamate. LCMS, [M+H]+=495.4.

reactant | 1-(5-(1-(3-(aminomethyl)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | NCC=1C=C(CN2N=CC(=C2)C2=C3CCCN(C3=CC=C2)C(CCCOC2=C(C(=CC=C2)C)C)=O)C=CC1 | C32H36N4O2
reactant | tert-butyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzylcarbamate | BrC=1C=NN(C1)CC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C16H20BrN3O2
reactant | 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | BrC1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C21H24BrNO2
reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)B2OC(C(O2)(C)C)(C)C)C=CC=C1C | C27H36BNO4
reactant | tert-butyl 3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)phenylcarbamate | CC1(OB(OC1(C)C)C=1C=NN(C1)CC=1C=C(C=CC1)NC(OC(C)(C)C)=O)C | C21H30BN3O4
product | 1-(5-(1-(3-Aminobenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | NC=1C=C(CN2N=CC(=C2)C2=C3CCCN(C3=CC=C2)C(CCCOC2=C(C(=CC=C2)C)C)=O)C=CC1 | C31H34N4O2
